US05665718
A suspension of 0.50 g (0.00154 mol) of 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a ][1,4]benzodiazepine-3-carboxylic acid hydrazide in 5 ml of N,N-dimethylformamide was treated with 0.33 g (0.00193 mol) of chloroacetic anhydride. The solution obtained was stirred at room temperature for 11/2 hr., whereby a suspension resulted. The suspension was cooled to 0°, treated with 40 ml of ether and suction filtered. The white crystals obtained (0.643 g, m.p. 264°-266° (dec.)) were treated with 4.5 ml of methanesulphonic acid and 0.5 g of phosphorus pentoxide, whereupon the mixture warmed up and the solution was stirred at room temperature for 1 hr. The yellow solution was poured into 75 ml of ice-water, whereupon the mixture was made basic with aqueous sodium hydroxide solution and extracted with methylene chloride. The crystalline product was chromatographed over silica gel with ethyl acetate as the eluent. There was obtained 0.193 g (33%) of 7-chloro-3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals; m.p. :234°-236°.

reactant | 7-chloro-8-fluoro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a ][1,4]benzodiazepine-3-carboxylic acid hydrazide | 0.00154 mol, 0.50 g | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C(=O)NN)C)=O)F | C13H11ClFN5O2
reactant | chloroacetic anhydride | 0.00193 mol, 0.33 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | methanesulphonic acid | 4.5 ml | CS(=O)(=O)O | CH4O3S
reactant | phosphorus pentoxide | 0.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ether | 40 ml | CCOCC | C4H10O
product | 7-chloro-3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.193 g, 33% | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1C=1OC(=NN1)CCl)C)=O)F | C15H10Cl2FN5O2
